US05532235
N-[4-[(4,5-Dihydropyrazolo[3,4-d]thieno[3,2-b]azepin-6(1H)-yl)carbonyl]-3-chlorophenyl]-5-fluoro-2-methylbenzamide
To an ice bath cooled mixture of 345 mg of 6(2-chloro-4-aminobenzoyl)-1,4,5,6-tetrahydropyrazolo[3,4-d]thieno[3,2-b]azepine in 3.5 ml of methylene chloride is added 417 μl of triethylamine is added a solution of 432 mg of 2-methyl-5-fluorobenzoyl chloride in 1.5 ml of methylene chloride. The reaction mixture is stirred at room temperature for 18 hours under argon. An additional 40 ml of methylene chloride is added followed by 20 ml of water. The organic layer is washed with 20 ml each of 2N citric acid, 1M NaHCO3 and brine. The organic layer is dried (Na2SO4), filtered through hydrous magnesium silicate and the filtrate evaporated in vacuo to give a foam residue. To a solution of 800 mg of the preceding compound in 4 ml methanol and 4 ml of tetrahydrofuran is added 2.7 ml of 1N NaOH. The reactants are stirred at room temperature for 1.5 hours. The reaction mixture is neutralized with 1N HCl and evaporated in vacuo to a residue which is diluted with 50 ml of methylene chloride and water and then filtered. The collected solid is dried at 60° C. to give 275 mg of the desired product as an off-white solid, m.p. 310°-312° C.

reactant | 6(2-chloro-4-aminobenzoyl)-1,4,5,6-tetrahydropyrazolo[3,4-d]thieno[3,2-b]azepine | 345 mg | ClC1=C(C(=O)N2C3=C(C4=C(CC2)C=NN4)SC=C3)C=CC(=C1)N | C16H13ClN4OS
reactant | 2-methyl-5-fluorobenzoyl chloride | 432 mg | CC1=C(C(=O)Cl)C=C(C=C1)F | C8H6ClFO
reactant | NaOH | 1N, 2.7 ml | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | methylene chloride | 3.5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.5 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 4 ml | CO | CH4O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | water | 20 ml | O | H2O
solvent | triethylamine | 417 μl | C(C)N(CC)CC | C6H15N
product | N-[4-[(4,5-Dihydropyrazolo[3,4-d]thieno[3,2-b]azepin-6(1H)-yl)carbonyl]-3-chlorophenyl]-5-fluoro-2-methylbenzamide | 275 mg | N1N=CC2=C1C1=C(N(CC2)C(=O)C2=C(C=C(C=C2)NC(C2=C(C=CC(=C2)F)C)=O)Cl)C=CS1 | C24H18ClFN4O2S
